* C:\Users\ycho\Desktop\Academics\2017\FA\controls\line_follower\sim.asc
XU1 VGND N001 Vcc 0 Vpid level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V1 Vcc 0 9V
Rl P001 Vcc 100
R§dR Vin_raw P001 {dR}
Rs 0 Vin_raw 2K
R6 N001 Vin 600K
R7 N001 P002 31.2K
XU2 N004 N002 Vcc 0 Mleft level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU3 N007 N006 Vcc 0 Mright level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Rf1 N002 Mleft {Rf}
Rf2 N006 Mright {Rf}
C1 Vpid P002 47µF
R3 Vcc N008 1K
R4 N008 0 1K
XU4 N008 VGND Vcc 0 VGND level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 Vcc N009 .5K
R2 N009 0 1K
XU5 N009 Vref Vcc 0 Vref level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R5 N002 Vpid {Ri}
R10 N004 VGND {Ri}
R11 N006 VGND {Ri}
R12 N007 Vpid {Ri}
R13 Vref N007 {Rf}
R14 Vref N004 {Rf}
C3 Vin N001 2.2µF
XU6 N005 N003 Vcc 0 Vin level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R8 Vin_raw N005 {Rd}
R9 N003 Voff {Rd}
R15 Vin N003 {Gi*Rd}
R16 N005 0 {Gi*Rd}
R17 N010 0 1K
R18 Vcc N010 {Roff}
XU7 N010 Voff Vcc 0 Voff level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.param k_p=15
.param k_i=7.07
.param k_d=14.1
.param Rf={Ri}
.param Ri=5K
.param Ro = 500K
.step param dR 1K 4K 500
.tran 0 {t0+dt} {t0} uic
.param t0=.2m
.param d=0.11
* .save V(mleft) V(mright) V(vref) V(vcc) V(vgnd) V(vin) V(Vpid)
.ic V(vcc)=9
.MEASURE TRAN m_left FIND V(mleft) AT={t0+0.9*dt}
.MEASURE TRAN m_right FIND V(mright) AT={t0+0.9*dt}
.MEASURE TRAN v_in FIND V(vin) AT={t0+0.9*dt}
.MEASURE TRAN v_pid FIND V(vpid) AT={t0+0.9*dt}
* .param dR=5K
.param dt = 10.0
.param v_s=80
.param Rd=1K
.param Gi=5
.param Roff=2.3K
.lib UniversalOpamps2.sub
.backanno
.end
